US07238724B2
3,4,5,6-Tetrahydro-2H-(1,2′)bipyridinyl-4-ylamine
To a stirred solution of (3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid tert-butyl ester (0.45 g, 1.49 mmol ) in dioxane (3.0 mL) at room temperature was added 4M HCl in dioxane (8 mL). The reaction mixture was stirred at room temperature 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue treated with ether. The titled compound was collected by filtration. MS (CI) m/z 203 (M+1)+.

reactant | (3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid tert-butyl ester | 1.49 mmol, 0.45 g | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=CC=C1)=O | C15H23N3O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 3,4,5,6-Tetrahydro-2H-(1,2′)bipyridinyl-4-ylamine | N1(CCC(CC1)N)C1=NC=CC=C1 | C10H15N3
